US08497264B2
A solution of (5-azido-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)methanol (25.1 g, 65.1 mmol) in THF (500 mL) was cooled to −10° C. and a solution of LAH (1.0 M in THF; 65.1 mL, 65.1 mmol) was added drop wise via an addition funnel over a time period of 1.5 hours. Upon complete addition, the reaction mixture was stirred additional 20 min at −10° C. The reaction mixture was quenched with the drop wise addition of saturated aqueous potassium sodium tartarate solution (60 mL). The reaction was diluted with water and EtOAc. The organic layer was separated, washed with brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford (5-amino-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)methanol (21.74 g, 60.5 mmol, 93% yield).

reactant | (5-azido-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)methanol | 65.1 mmol, 25.1 g | N(=[N+]=[N-])C1(C2=CC(=CC=C2OC=2C(=NC(=CC21)Cl)F)Br)CO | C13H7BrClFN4O2
reactant | LAH | 65.1 mmol, 1.0 M, 65.1 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (5-amino-7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)methanol | 60.5 mmol, 21.74 g, 93% yield | NC1(C2=CC(=CC=C2OC=2C(=NC(=CC21)Cl)F)Br)CO | C13H9BrClFN2O2
